US07199239B2
(4-{[Butyl(2,4′-dimethyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid (Method A)
A mixture of ethyl (4-{[(3-bromo-2-methylphenyl)(butyl)amino]methyl}-2-methylphenoxy)acetate (90 mg, 0.2 mmol), 4-methylphenylboronic acid (32 mg, 0.23 mmol), tetrakis(triphenylphosphine)palladium (0) (5 mg, 4.32 mmol), sodium carbonate (55 mg, 0.52 mmol) in 1,2-dimethoxyethane (10 mL) and water (5 mL) was heated at 90° C. for 18 h under nitrogen. The reaction mixture was cooled and the solvents removed in vacuo. Purification by SPE (C18, 10 g) eluting with 20 mL each of 5%, 10%, 30%, 50% acetonitrile/water, acetonitrile, MeOH. Further purification with SPE (amino propyl, 10 g), eluted with CH2Cl2 (40 mL), CHCl3 (20 mL), ether (20 mL), EtOAc (40 mL), MeOH (20 mL), 10% NH3/MeOH (40 mL) afforded the title compound as a colourless oil (50 mg).

reactant | ethyl (4-{[(3-bromo-2-methylphenyl)(butyl)amino]methyl}-2-methylphenoxy)acetate | 0.2 mmol, 90 mg | BrC=1C(=C(C=CC1)N(CCCC)CC1=CC(=C(OCC(=O)OCC)C=C1)C)C | C23H30BrNO3
reactant | 4-methylphenylboronic acid | 0.23 mmol, 32 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 0.52 mmol, 55 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 4.32 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-{[Butyl(2,4′-dimethyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid | 50 mg | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C28H33NO3
